US07205291B2
Anhydrous trifluoromethanesulfonic acid was added to THF (7 ml) and water (4 ml), and the solution was adjusted to pH2.2. To the solution was added at 0° C. allyl (5R,6S)-7-oxo-6-{(1R)-1-[(triethylsilyl)oxy]ethyl}-3-(3-{[(triethylsilyl)oxy]methyl}phenyl)-1-azabicyclo[3.2.0]hept-2-ene-2-carboxylate (520 mg). After stirring for 1 hour, thereto was added a saturated aqueous sodium hydrogencarbonate solution, and the solution was extracted with ethyl acetate. The organic layer was washed with a saturated aqueous sodium chloride solution, dried over anhydrous sodium sulfate, and the solvent was removed under reduced pressure to give allyl (5R,6S)-6-[(1R)-1-hydroxyethyl]-3-[3-(hydroxymethyl)phenyl]-7-oxo-1-azabicyclo[3.2.0]hept-2-ene-2-carboxylate. This product was used in the next step without further purification.

reactant | trifluoromethanesulfonic acid | FC(S(=O)(=O)O)(F)F | CHF3O3S
reactant | THF | 7 ml | C1CCOC1 | C4H8O
reactant | allyl (5R,6S)-7-oxo-6-{(1R)-1-[(triethylsilyl)oxy]ethyl}-3-(3-{[(triethylsilyl)oxy]methyl}phenyl)-1-azabicyclo[3.2.0]hept-2-ene-2-carboxylate | 520 mg | O=C1[C@@H]([C@H]2CC(=C(N12)C(=O)OCC=C)C1=CC(=CC=C1)CO[Si](CC)(CC)CC)[C@@H](C)O[Si](CC)(CC)CC | C31H49NO5Si2
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
solvent | water | 4 ml | O | H2O
product | allyl (5R,6S)-6-[(1R)-1-hydroxyethyl]-3-[3-(hydroxymethyl)phenyl]-7-oxo-1-azabicyclo[3.2.0]hept-2-ene-2-carboxylate | O[C@H](C)[C@@H]1[C@H]2CC(=C(N2C1=O)C(=O)OCC=C)C1=CC(=CC=C1)CO | C19H21NO5
